US05641777
A) 2-(3,4-Dichlorophenyl)-2-hydroxyacetonitrile
A mixture of 70 g of 3,4-dichlorobenzaldehyde and 90 g of Na2S2O5 in 300 ml of water is stirred overnight at RT. The reaction mixture is cooled to 0° C., a solution of 52 g of KCN in 100 ml of water is added dropwise and the reaction mixture is stirred while the temperature is allowed to rise to RT. It is extracted with ether, the organic phase is washed with water and dried over Na2SO4 and the solvent is evaporated off under vacuum to give 76 g of the expected product, which is used as such.

reactant | 3,4-dichlorobenzaldehyde | 70 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | KCN | 52 g | [C-]#N.[K+]
solvent | water | 300 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-(3,4-Dichlorophenyl)-2-hydroxyacetonitrile | 76 g | ClC=1C=C(C=CC1Cl)C(C#N)O | C8H5Cl2NO
